data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_159115_1,[C:1]([N:2]([N:3]([N:5]([H:9])[H:10])[H:8])[C:4]([N:6]([H:11])[H:12])=[O:7])([H:13])([H:14])[H:15]>>[C:1]([N:2]([N:3]([C:4]([N:6]([H:11])[H:12])=[O:7])[N:5]([H:9])[H:10])[H:8])([H:13])([H:14])[H:15],11.050902500028172
MR_422777_2,[C:1]([C:3]([H:17])([H:18])[H:19])([C:5]([C:2]([H:14])([H:15])[H:16])=[O:9])(/[C:6]([C:4]([H:20])([H:21])[H:22])=[C:8](\[N:7]([H:11])[H:12])[H:13])[H:10]>>[C:1](\[C:3]([H:17])([H:18])[H:19])(=[C:6](\[C:4]([H:20])([H:21])[H:22])[C:8]([C:5]([C:2]([H:14])([H:15])[H:16])=[O:9])([N:7]([H:11])[H:12])[H:13])[H:10],61.67195499998954
MR_334656_1,[C:1]([C:4]([N:3]([N:6]([H:10])[H:11])[N:9][C:8]([H:20])[H:21])[C:5]([C:2]([H:17])([H:18])[H:19])[N:7]([H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1](/[C:4](=[N:3]\[N:6]([H:10])[H:11])[C@:5]([C:2]([H:17])([H:18])[H:19])([N:7]([H:12])[H:13])[N:9]=[C:8]([H:20])[H:21])([H:14])([H:15])[H:16],67.93691500000918
MR_325108_0,[C:1]([C:6]1([H:14])[C:3]([C:2]([N:4]([H:10])[H:11])=[O:7])([N:5]([H:12])[H:13])[N:8]1[H:9])([H:15])([H:16])[H:17]>>[C:1](/[C:6](=[N:8]/[C:3](=[C:2](/[N:4]([H:10])[H:11])[O:7][H:9])[N:5]([H:12])[H:13])[H:14])([H:15])([H:16])[H:17],58.23576499999746
MR_253579_0,[C:1]1([H:12])([H:13])[C:2]([N:3]([H:8])[H:9])(/[C:5](=[N:4]/[H:11])[H:14])[N:6]1[O:7][H:10]>>[C:1](/[C:2]([N:3]([H:8])[H:9])=[C:5](\[N:4]([H:10])[H:11])[H:14])([N:6]=[O:7])([H:12])[H:13],7.462857500027127
MR_297086_0,[C:1]([C:4]([N:3]([C:5]([C:2]([H:11])([H:14])[H:15])=[C:7]([H:18])[H:19])[O:8][H:9])=[C:6]([H:16])[H:17])([H:10])([H:12])[H:13]>>[C:1](/[C:4](=[N:3]\[O:8][H:9])[C:6]([C:5]([C:2]([H:11])([H:14])[H:15])=[C:7]([H:18])[H:19])([H:16])[H:17])([H:10])([H:12])[H:13],56.55092749997095
MR_399009_1,[C:1](/[C:3]([N:2]([N:4]([H:9])[H:10])[C:6](=[O:8])[H:13])=[N:7]/[N:5]([H:11])[H:12])([H:14])([H:15])[H:16]>>[C:1](/[C:3](=[N:2]\[N:4]([H:9])[H:10])[N:7]([N:5]([H:11])[H:12])[C:6](=[O:8])[H:13])([H:14])([H:15])[H:16],56.42040750001513
MR_493390_0,[n:1]1([H:10])[c:3](=[O:8])[n:2]([H:11])[c:5]([N:6]([H:12])[H:13])[c:4]1[O:7][H:9]>>[N:1](=[C:4](/[C:5]1([N:6]([H:12])[H:13])[N:2]([H:11])[C:3]1=[O:8])[O:7][H:9])\[H:10],62.571790000000505
MR_277696_1,[C:1]([N:4](/[C:5]([N:7]([H:10])[H:11])=[N:8]\[C:2]([H:16])([H:17])[H:18])/[C:6]([C:3]([H:19])([H:20])[H:21])=[N:9]\[H:12])([H:13])([H:14])[H:15]>>[C:1](/[N:4]=[C:5](/[N:7]([H:10])[H:11])[N:8]([C:2]([H:16])([H:17])[H:18])/[C:6]([C:3]([H:19])([H:20])[H:21])=[N:9]\[H:12])([H:13])([H:14])[H:15],38.48081000004399
MR_308397_2,[C:1]1([O:6][H:7])([H:9])[C:4]([H:11])=[C:3]([H:10])[N:2]([H:8])[O:5]1>>[C:1]1([H:9])=[C:4]([H:11])[C:3]([O:6][H:7])([H:10])[N:2]([H:8])[O:5]1,52.28643749996564
MR_313073_0,[C:1](/[N:8]=[C:2]([C:5](=[C:3](\[N:4]([H:11])[H:12])[O:7][H:10])\[H:13])/[O:6][H:9])([H:14])([H:15])[H:16]>>[C:1]([N:8]1[C:2]([O:6][H:9])=[C:5]([H:13])[C:3]1([N:4]([H:11])[H:12])[O:7][H:10])([H:14])([H:15])[H:16],42.18808000002937
MR_354079_1,[C:1](/[C:4](=[C:3](\[O:7][H:9])[H:11])[H:12])([O:5][C:2]([H:13])([H:14])[H:15])([O:6][H:8])[H:10]>>[C:1](=[C:4](\[C:3]([O:5][C:2]([H:13])([H:14])[H:15])([O:7][H:9])[H:11])[H:12])(\[O:6][H:8])[H:10],50.91095750004982
MR_67726_0,[C:1](/[C:3](=[C:2](/[N:4]([H:9])[H:10])[O:7][H:8])[C:5](=[C:6]([H:15])[H:16])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:3]1=[C:5]([H:11])[C:6]([H:15])([H:16])[C:2]1([N:4]([H:9])[H:10])[O:7][H:8])([H:12])([H:13])[H:14],47.07630499995801
MR_71099_1,[C@:1]([C:2]([H:11])([H:12])[H:13])([C:3](=[C:4]([H:14])[H:15])[H:10])([O:5][O:6][H:8])[O:7][H:9]>>[C:1](\[C:2]([H:11])([H:12])[H:13])(=[C:3](/[C:4]([O:5][O:6][H:8])([H:14])[H:15])[H:10])[O:7][H:9],44.98547500006481
MR_442869_0,[C:1](/[C:4](=[C:6](\[C:3]([H:17])([H:18])[H:19])[H:13])[O:8][H:11])([C:5]([C:2]([H:14])([H:15])[H:16])=[O:9])([O:7][H:10])[H:12]>>[C:1](=[C:4](\[C:6]([C:3]([H:17])([H:18])[H:19])([C:5]([C:2]([H:14])([H:15])[H:16])=[O:9])[H:13])[O:8][H:11])(\[O:7][H:10])[H:12],51.500179999988944
MR_637465_0,[N:1](/[C:2]([N:3]([H:11])[H:12])=[N:7]/[O:6][H:10])(/[C:4](=[N:8]/[H:13])[H:14])[O:5][H:9]>>[N:1](=[C:2](/[N:3]([H:11])[H:12])[N:7](/[C:4](=[N:8]/[H:13])[H:14])[O:6][H:10])\[O:5][H:9],45.31993249996944
MR_525876_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3](=[C:5]([H:15])[H:16])[O:7][H:9])([N:4]([H:10])[H:11])[O:6][H:8]>>[C:1]([C:3]([C:2]([H:12])([H:13])[H:14])=[C:5]([H:15])[H:16])([N:4]([H:10])[H:11])([O:6][H:8])[O:7][H:9],72.48189749994836
MR_536017_0,[C:1]([N:3](/[C:4](=[C:5](\[C:2]([H:20])([H:21])[H:22])[N:8]([H:14])[H:15])[N:7]([H:12])[H:13])[N:6]([H:10])[H:11])([N:9]([H:16])[H:17])([H:18])[H:19]>>[C:1]([C:5]([C:2]([H:20])([H:21])[H:22])(/[C:4](=[N:3]/[N:6]([H:10])[H:11])[N:7]([H:12])[H:13])[N:8]([H:14])[H:15])([N:9]([H:16])[H:17])([H:18])[H:19],63.84498749999622
MR_113328_1,[C:1]([C:3]([H:17])([H:18])[H:19])([O:7][C:2]([H:14])([H:15])[H:16])([N:8]=[C:4]([N:5]([H:10])[H:11])[N:6]([H:12])[H:13])[H:9]>>[C:1](\[C:3]([H:17])([H:18])[H:19])(=[N:8]\[C:4]([N:5]([H:10])[H:11])([N:6]([H:12])[H:13])[O:7][C:2]([H:14])([H:15])[H:16])[H:9],56.12422750004953
